Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Shortness of breath
 
Major Surgical or Invasive Procedure:
Cardiac catheterization (___)

 
History of Present Illness:
___ man with medical history notable for T2DM (HbA1C 7.1% 
___, hypertension, and OSA on CPAP who presents from his 
PCP's office with shortness of breath.  

Patient presented to his PCP's office today with persistent 
chest congestion associated with shortness of breath, cough, and 
increased sputum production (no hemoptysis). He says that his 
symptoms all began in late ___ ('He had a cold,' according 
to his wife) and have waxed and waned since then, ultimately 
progressing with significant fatigue and exertional SOB. Whereas 
patient previously was in reported good health, regularly going 
to the gym and bicycling, he now becomes quite fatigued after 
climbing only two flights of stairs. No subjective fevers or 
night sweats, patient has noticed brow sweat quite often as of 
late. He denies any lower extremity swelling or increased 
weight. There does seem to be a new sensation of abdominal 
distension. No exertional chest pain or palpitations. No 
lightheadedness/dizziness. No orthopnea. No symptoms consistent 
with PND. Patient has received azithromycin on two occasions 
without any relief. Trialing mucinex and cleaning his CPAP 
machine have also been of little help. Given patient's 
persistent symptoms, he was instructed to present to the ___ 
for further evaluation and acute management.  

In the ED initial vitals were: 98.6 ___ 18 99% RA  
EKG: sinus tachycardia, normal intervals, no ST segment changes  

Labs/studies notable for:  
 CBC 7.2>13.7/42.4<259 (MCV 83)  
 BMP ___  
 HbA1C 7.1%  
 proBNP 3061  
 Troponin-T <.01  
 UA unremarkable  
CXR  
 FINDINGS:  
 PA and lateral views of the chest provided. Cardiomegaly is 
noted with pulmonary vascular congestion and mild interstitial 
pulmonary edema. No large effusion is seen. No signs of 
pneumonia. Mediastinal contour is grossly unremarkable. Bony 
structures are intact.  
Patient was given:  
 ___ 14:20 PO Aluminum-Magnesium Hydrox.-Simethicone 30 
mL  
 ___ 14:20 PO Donnatal 5 mL  
 ___ 14:20 PO Lidocaine Viscous 2% 10 mL  
 ___ 19:25 IV Furosemide 10 mg  
 
Vitals on transfer: 98.1 ___ 16 100% RA  

On the floor, patient recounts the history as above. No acute 
complaints of CP, SOB, or palpitations. He continues to have 
significant fatigue. No fevers/chills. Since receiving the 10mg 
IV Lasix at ___, he has urinated at least several times (not 
collected). 10-point ROS is otherwise NEGATIVE.  

 
Past Medical History:
Type II diabetes
HTN
OSA on CPAP
Hyperlipidemia
Cervical radiculopathy  
 
Social History:
___
Family History:
Mother (___) - DM2, HTN  
Father (died at ___) - IV drug use  
Half-brother (___) - MI in late ___  

 
Physical Exam:
DISCHARGE:
=====================
24 HR Data (last updated ___ @ 821)
    Temp: 98.1 (Tm 98.4), BP: 141/106 (127-156/81-108 manual),
HR: 106 (92-110), RR: 18 (___), O2 sat: 99% (96-99), O2
delivery: ra  
Fluid Balance (last updated ___ @ 820) 
  Last 8 hours  Total cumulative 110ml
    IN: Total 360ml, PO Amt 360ml
    OUT:  Total 250ml, Urine Amt 250ml
  Last 24 hours  Total cumulative -70ml
    IN: Total 880ml, PO Amt 880ml
    OUT:  Total 950ml, Urine Amt 950ml      
GENERAL: NAD, comfortably lying in bed  
HEENT: anicteric sclerae, oropharynx clear
NECK: supple, JVP just above clavicle at ___istant heart sounds, RRR, S1/S2, no m/r/g 
PULM: unlabored, crackles improved
ABD: soft, mildly distended, non-tender
EXT: warm, well perfused, without edema
NEURO: non-focal

 
Pertinent Results:
ADMISSION LABS:
==================

___ 03:18PM   WBC-7.2 RBC-5.10 HGB-13.7 HCT-42.2 MCV-83 
MCH-26.9 MCHC-32.5 RDW-14.1 RDWSD-41.3
___ 03:18PM   GLUCOSE-176* UREA N-15 CREAT-1.4* SODIUM-138 
POTASSIUM-4.6 CHLORIDE-102 TOTAL CO2-20* ANION GAP-16
___ 07:20PM   ALBUMIN-3.8 CALCIUM-9.1 PHOSPHATE-3.7 
MAGNESIUM-2.0 IRON-48
___ 03:18PM   ALT(SGPT)-19 AST(SGOT)-17 LD(LDH)-197 ALK 
PHOS-67 TOT BILI-1.5

PERTINENT LABS:
==================
___ 03:18PM   TSH-1.9
___ 03:18PM   ASA-NEG ACETMNPHN-NEG tricyclic-NEG
___ 03:18PM   TRIGLYCER-102 HDL CHOL-45 CHOL/HDL-2.5 
LDL(CALC)-49 ___
___ 03:18PM   IRON-53 CHOLEST-114
___ 03:18PM   calTIBC-404 TRF-311
___ 03:18PM   cTropnT-<0.01 proBNP-3061*
___ 07:20PM   FERRITIN-66
___ 05:10PM   %HbA1c-7.1* eAG-157*
___ 07:20PM   cTropnT-<0.01
___ 08:30PM URINE  U-PEP-NO PROTEIN
___ 07:20PM BLOOD cTropnT-<0.01
___ 05:10PM BLOOD %HbA1c-7.1* eAG-157*
___ 01:10PM BLOOD PEP-NO SPECIFI ___ FreeLam-19.4 
Fr K/L-0.76

IMAGING:
==================
-CXR ___
FINDINGS:  
PA and lateral views of the chest provided.  Cardiomegaly is 
noted with 
pulmonary vascular congestion and mild interstitial pulmonary 
edema.  No large effusion is seen.  No signs of pneumonia.  
Mediastinal contour is grossly unremarkable.  Bony structures 
are intact.  
IMPRESSION:  As above. 
-TTE ___
The left atrial volume index is moderately increased. The right 
atrium is mildly enlarged. The estimated right atrial pressure 
is >15mmHg. There is SEVERE global left ventricular hypokinesis. 
The visually estimated left ventricular ejection fraction is 
25%. There is no resting left ventricular outflow tract 
gradient. No thrombus or mass is seen in the left ventricle. 
Mildly dilated right ventricular cavity with low normal free 
wall motion. The aortic sinus diameter is normal with mildly 
dilated ascending aorta.
The aortic arch diameter is normal. The aortic valve leaflets 
(3) are mildly thickened. There is no aortic valve stenosis. 
There is no aortic regurgitation. The mitral leaflets appear 
structurally normal. There is
no mitral valve stenosis. There is moderate [2+] mitral 
regurgitation. The tricuspid valve leaflets appear structurally 
normal. There is moderate [2+] tricuspid regurgitation. There is 
moderate pulmonary artery
systolic hypertension. There is no pericardial effusion.
IMPRESSION: Suboptimal image quality. Mitral and tricuspid 
regurgitation may be significantly underestimated due to far 
field attenuation.
-Cardiac cath ___:
Coronary Anatomy
Dominance: Right
* Left Main Coronary Artery
The LMCA is without significant disease
* Left Anterior Descending
The LAD is without significant disease.
The ___ Diagonal is without significant disease.
* Circumflex
The Circumflex is with mid 70%.
The ___ Marginal is without significant disease.
* Ramus
The Ramus is without significant disease.
* Right Coronary Artery
The RCA is with mid-distal 40-50%.
The Right PDA is without significant disease.

DISCHARGE LABS:
==================

___ 07:45AM BLOOD WBC-7.2 RBC-5.08 Hgb-13.7 Hct-41.9 MCV-83 
MCH-27.0 MCHC-32.7 RDW-14.0 RDWSD-41.2 Plt ___
___ 07:45AM BLOOD Glucose-127* UreaN-20 Creat-1.4* Na-139 
K-4.2 Cl-102 HCO3-23 AnGap-14
___ 07:45AM BLOOD Calcium-9.1 Phos-4.4 Mg-2.___ man with medical history notable for T2DM, hypertension, 
and OSA who presented with shortness of breath found to have 
acute systolic congestive heart failure, coronary 
atherosclerotic disease, and hypertensive urgency.

#Acute systolic congestive heart failure:
Patient was referred from his PCP's office to the hospital in 
the setting of progressive shortness of breath and chest 
congestion. Evaluation was notable for exam with elevated JVP, 
abdominal distension, lab work showing BNP elevation, and CXR 
with pulmonary edema concerning for new congestive heart 
failure. TTE showed global systolic dysfunction (LVEF = 25%), 
without evidence of regional wall abnormalities or gross 
valvular pathology. Work-up of new CHF notable for negative 
troponins, TSH within normal limits, normal iron studies, 
negative HIV, lipid panel within normal limits, negative 
SPEP/UPEP. Cardiac cath notable for 70% stenosis of LCx, 40-50% 
stenosis of RCA; no interventions were performed. He received IV 
diuresis with improvement in his respiratory status. He was 
started on guideline-directed therapy with PRELOAD: lasix 20mg 
daily; AFTERLOAD: lisinopril 40mg daily, imdur 30mg 
daily/hydralazine 25mg TID; NHBK: spironolactone 25mg daily. 
Metoprolol was deferred in the setting of low CI and 
tachycardia. He should have a cMRI for further evaluation of 
etiologies of his HF. Metoprolol should be initiated as an 
outpatient. 
-Discharge weight: 105.7 kg (233.02 lb) 

#Hypertensive urgency:
Patient longstanding hypertension, recently with poor control 
over the last x6 months. His home lisinopril was uptitrated to 
40mg daily and he was started on hydralazine/imdur and 
spironolactone with improvement in his BPs.

#Coronary atherosclerotic disease:
In the setting of new CHF, patient underwent catheterization 
notable for CAD. He received high dose aspirin x1, and then was 
started on aspirin/statin.

CHRONIC ISSUES:
#T2DM:
He was continued on his home metformin

#OSA:
He continued on CPAP in the hospital

TRANSITIONAL ISSUES:
[] Consider Cardiac MRI for further evaluation of new CHF in x3 
months to assess for recovery
[] If weight continuing to downtrend, would consider changing 
Lasix to PRN with weight >3lb change
[] Would recommend starting bblocker at outpatient visit if 
patient continues to improve
[] Discharge weight: 105.7 kg (233.02 lb) 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Simvastatin 40 mg PO QPM 
2. Lisinopril 20 mg PO DAILY 
3. MetFORMIN (Glucophage) 500 mg PO BID 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth daily Disp #*90 Tablet 
Refills:*4 
2.  Atorvastatin 80 mg PO QPM 
RX *atorvastatin 80 mg 1 tablet(s) by mouth daily Disp #*90 
Tablet Refills:*4 
3.  Furosemide 20 mg PO DAILY 
RX *furosemide 20 mg 1 tablet(s) by mouth daily Disp #*90 Tablet 
Refills:*4 
4.  HydrALAZINE 25 mg PO TID 
RX *hydralazine 25 mg 1 tablet(s) by mouth three times a day 
Disp #*270 Tablet Refills:*4 
5.  Isosorbide Mononitrate (Extended Release) 30 mg PO DAILY 
RX *isosorbide mononitrate 60 mg 1 tablet(s) by mouth daily Disp 
#*90 Tablet Refills:*4
RX *isosorbide mononitrate 30 mg 1 tablet(s) by mouth once a day 
Disp #*90 Tablet Refills:*0 
6.  Spironolactone 25 mg PO DAILY  
7.  Lisinopril 40 mg PO DAILY 
RX *lisinopril 40 mg 1 tablet(s) by mouth daily Disp #*90 Tablet 
Refills:*4 
8.  MetFORMIN (Glucophage) 500 mg PO BID  
9.Outpatient Lab Work
Please check CHEM-10
Dx: acute systolic congestive heart failure ICD 10: ___
Fax results to Dr. ___ at ___

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY
-Acute systolic heart failure

SECONDARY:
-Hypertension

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure caring for you at ___ 
___.

WHY WAS I ADMITTED TO THE HOSPITAL?
-You had difficulty breathing in recent weeks due to excess 
fluid in your lungs.

WHAT HAPPENED WHILE I WAS IN THE HOSPITAL?
-We took pictures of your heart (echocardiogram), which showed 
that your heart was not squeezing well.
-We then took pictures of the blood vessels in your heart, which 
showed a partial blockage of a single blood vessel. This does 
not explain why your heart is not squeezing well.
-We gave you a medication (Lasix) to remove extra fluid.
-We changed your blood pressure medications.

WHAT SHOULD I DO WHEN I GO HOME?
-It is very important you follow-up with your new cardiologist 
(see appointments below) and take your new medications (see 
medication sheet).
-Weigh yourself every morning. Call your cardiologist or primary 
doctor if your weight increases by 3 pounds in a day or 5 pounds 
in a week.
-It is okay to exercise, but please avoid strenuous exercise or 
heavy lifting. Bike riding, walking, or jogging is okay.
-Please be mindful of the amount of salt you eat. As discussed, 
limit the amount of ___ food, deli meats, and salty barbecue 
or hot sauces you eat.

We wish you all the ___.

Sincerely,
Your ___ care team
 
Followup Instructions:
___